US05156670
5-[Cyano(dihydro-3-methyl-2(3H)-furanylidene)methyl]-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester.
To a solution of 5.0 g (14.3 mmol) of 5-(cyanomethyl)-4-(2-methylpropyl-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester, prepared as in Example d, above, 5.0 g (34.9 mmol) 1-methyl-4-chlorobutyryl chloride, 0.37 g benzyltriethylammonium chloride, and 150 mL dichloromethane was added 82 mL 50% NaOH. The solution was stirred at room temperature for 2 hours. The reaction was then quenched with ice water and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered through silica gel and concentrated to give 5.2 g of crude product. Purification by chromatography using 20% ethyl acetate in hexanes yielded 3.1 g of the desired product as a yellow oil, a 51% yield. nD25 1.4887.

reactant | 2-methylpropyl-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester | CC(CC1=C(C(=NC(=C1)C(F)(F)F)C(F)F)C(=O)OC)C | C13H14F5NO2
reactant | NaOH | 82 mL | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 0.37 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 5-[Cyano(dihydro-3-methyl-2(3H)-furanylidene)methyl]-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester | 3.1 g, 51% yield | C(#N)C(C=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC(C)C)=C1OCCC1C | C20H21F5N2O3
